US08609727B2
1-[Bromo(difluoro)methyl]-4-(trifluoromethoxy)benzene
A solution of 2.38 g (11.22 mmol) of 1-(difluoromethyl)-4-(trifluoromethoxy)benzene and 6.19 g (34.78 mmol) of N-bromosuccinimide (NBS) in 25 ml of tetrachloromethane is irradiated with exclusion of oxygen using a sun lamp. During this, the solvent reaches its boiling point. It is irradiated under reflux for 48 hours. The mixture is then allowed to cool to room temperature, precipitated succinimide is filtered off, and the filtrate is evaporated to dryness. The resulting crude product is purified by flash chromatography on silica gel (mobile phase: cyclohexane). 1.73 g (5.94 mmol, 53% of theory) of a yellowish oil are obtained.

reactant | 1-(difluoromethyl)-4-(trifluoromethoxy)benzene | 11.22 mmol, 2.38 g | FC(C1=CC=C(C=C1)OC(F)(F)F)F | C8H5F5O
reactant | N-bromosuccinimide | 34.78 mmol, 6.19 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | oxygen | O=O | O2
solvent | tetrachloromethane | 25 ml | ClC(Cl)(Cl)Cl | CCl4
product | 1-[Bromo(difluoro)methyl]-4-(trifluoromethoxy)benzene | BrC(C1=CC=C(C=C1)OC(F)(F)F)(F)F | C8H4BrF5O
